US07635715B2
Step C: Preparation of 2-(3-chloro-2-iodophenyl)acetic acid
A mixture of 2-(3-chloro-2-iodophenyl)acetonitrile (3.2 g, 12 mmol) in 20 mL dioxane was treated with 25 mL 9M H2SO4. The mixture was stirred at 115° C. for 2 hours, cooled to room temperature, and diluted with 100 mL water. The mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturated NaCl (20 mL), dried over anhydrous sodium sulfate, and concentrated to give crude product in 4 g as pale yellow solid. MS m/e: (M+H)+ 297.

reactant | 2-(3-chloro-2-iodophenyl)acetonitrile | 12 mmol, 3.2 g | ClC=1C(=C(C=CC1)CC#N)I | C8H5ClIN
reactant | H2SO4 | 9M, 25 mL | OS(=O)(=O)O | H2O4S
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-(3-chloro-2-iodophenyl)acetic acid | ClC=1C(=C(C=CC1)CC(=O)O)I | C8H6ClIO2
